US06242601B1
In analogy to example 22, from 4-[4-methoxy-5-(2-methoxy-phenoxy)-6-(5-methyl-thiazole-2-sulfonylamino)-pyrimidin-2-yl]-pyridine-2-carboxylic acid, product of example 61, by coupling with MeOH and benzotriazol-1-yloxytris-(dimethylamino)-phosphonium hexafluorophosphate (BOP) as regent there was obtained 4-[4-methoxy-5-(2-methoxy-phenoxy)-6-(5-methyl-thiazole-2-sulfonylamino)-pyrimidin-2-yl]-pyridine-2-carboxylic acid methyl ester as an off-white solid. ISP mass spectrum, m/e 544.2 (M+1 calculated for C23H21N5O7S2: 544).

reactant | 4-[4-methoxy-5-(2-methoxy-phenoxy)-6-(5-methyl-thiazole-2-sulfonylamino)-pyrimidin-2-yl]-pyridine-2-carboxylic acid | COC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)NS(=O)(=O)C=1SC(=CN1)C)C1=CC(=NC=C1)C(=O)O | C22H19N5O7S2
reactant | benzotriazol-1-yloxytris-(dimethylamino)-phosphonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | MeOH | CO | CH4O
product | 4-[4-methoxy-5-(2-methoxy-phenoxy)-6-(5-methyl-thiazole-2-sulfonylamino)-pyrimidin-2-yl]-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=CC(=C1)C1=NC(=C(C(=N1)OC)OC1=C(C=CC=C1)OC)NS(=O)(=O)C=1SC(=CN1)C | C23H21N5O7S2
